US07842696B2
LiOH (140 mg, 3.3 mmol) was added to a stirred solution of [(1-biphenyl-4-yl-ethyl)-tert-butoxycarbonyl-amino]-acetic acid methyl ester (202 mg, 0.54 mmol) in THF:MeOH:H2O (3:1:1, 10 mL), and the resulting mixture was stirred at room temperature for 12 hrs. The reaction mixture was concentrated under reduced pressure. Cold water was then added, the product was acidified with aqueous citric acid solution and then extracted with EtOAc. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford 190 mg (97.9% yield) of [(1-biphenyl-4-yl-ethyl)-tert-butoxycarbonyl-amino]-acetic acid.

reactant | LiOH | 3.3 mmol, 140 mg | [Li+].[OH-]
reactant | [(1-biphenyl-4-yl-ethyl)-tert-butoxycarbonyl-amino]-acetic acid methyl ester | 0.54 mmol, 202 mg | COC(CN(C(=O)OC(C)(C)C)C(C)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C22H27NO4
solvent | THF MeOH H2O | 10 mL | C1CCOC1.CO.O
product | [(1-biphenyl-4-yl-ethyl)-tert-butoxycarbonyl-amino]-acetic acid | 190 mg, 97.9% yield | C1(=CC=C(C=C1)C(C)N(C(=O)OC(C)(C)C)CC(=O)O)C1=CC=CC=C1 | C21H25NO4
